US07737153B2
4-Amino-1H-pyrrolo[2,3-b]pyridine
9.35 g (167 mmol) of iron powder are added to a solution of 3.00 g (16.8 mmol) of 4-nitro-1H-pyrrolo[2,3-b]pyridine 7-oxide (from example (XVI) in 225 ml of acetic acid, and the mixture is heated under reflux for 2 hours. The crude mixtures of two such batches are combined and jointly worked up further. The solid is separated off and washed with 50 ml of acetic acid and 100 ml of tetrahydrofuran. Using a rotary evaporator, the filtrate is concentrated to dryness. The residue is diluted with 50 ml of water and the solution is made alkaline using 45% strength sodium hydroxide solution. Dichloromethane is then added, and the mixture is filtered off with suction through kieselguhr. The filtrate is extracted six times with in each case 100 ml of dichloromethane and the organic phase is dried over sodium sulfate and evaporated to dryness using a rotary evaporator. The residue is dried under high vacuum. For further purification, the residue is triturated with tetrahydrofuran and the solid is filtered off with suction. The filtrate is concentrated and the residue is taken up in dichloromethane, dried and concentrated.

reactant | 4-nitro-1H-pyrrolo[2,3-b]pyridine 7-oxide | 16.8 mmol, 3.00 g | [N+](=O)([O-])C1=C2C(=[N+](C=C1)[O-])NC=C2 | C7H5N3O3
solvent | acetic acid | 225 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 167 mmol, 9.35 g | [Fe] | Fe
product | 4-Amino-1H-pyrrolo[2,3-b]pyridine | NC1=C2C(=NC=C1)NC=C2 | C7H7N3
